US07718675B2
a) tert-Butyl {1(S)-[1(S)-hydroxy-2-(2-oxotetrahydropyrimidin-1-yl)ethyl]-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate
The solution of 0.035 g of tert-butyl {1(S)-[1(S)-(tert-butyldimethylsilanyloxy)-2-(2-oxotetrahydropyrimidin-1-yl)ethyl]-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate in 0.65 ml of tetrahydrofuran is admixed with 0.064 ml of 1M tetrabutylammonium fluoride (in tetrahydrofuran) and stirred at room temperature over 18 hours. The reaction solution is admixed with water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a colourless oil. Rf=0.36 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=4.44 (gradient I).

reactant | tert-butyl {1(S)-[1(S)-(tert-butyldimethylsilanyloxy)-2-(2-oxotetrahydropyrimidin-1-yl)ethyl]-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | 0.035 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CN1C(NCCC1)=O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C35H63N3O7Si
reactant | tetrabutylammonium fluoride | 1M, 0.064 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 0.65 ml | O1CCCC1 | C4H8O
product | tert-Butyl {1(S)-[1(S)-hydroxy-2-(2-oxotetrahydropyrimidin-1-yl)ethyl]-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | O[C@@H](CN1C(NCCC1)=O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C29H49N3O7
